* C:\Repos\Hardware-Projects\Simulations\ltspice\RCFilterWithRealValues.asc
* Generated by LTspice 26.0.2 for Windows.
V1 N001 0 5 AC 1
R1 N002 N001 11k
R2 0 N002 10k
C1 N002 0 68nF
.ac dec 100 1 10Meg
.backanno
.end
